US05332837
A 110 mg quantity (0.26 mM) of the product of Step 4A, 1,1-dimethylethyl ester of 1-(chloromethyl)-1,6-dihydro-8-methyl-5-(phenylmethoxy)-benzo[1,2-b:4,3-b']dipyrrole-3(2H)-carboxylic acid, is stirred at room temperature under nitrogen in 2 ml freshly distilled THF and 2 ml methanol. 120 mg 10% Pd/C (palladium on charcoal) and 130 mg ammonium formate is added. After TLC shows the reaction mixture to be complete, the reaction mixture is filtered, and the solid washed with freshly distilled THF. The combined filtrate and wash is partitioned between ethyl acetate and brine (saturated aqueous sodium chloride solution), the layers separated and the aqueous layer reextracted with ethyl acetate. The organic layers are combined, dried over sodium sulfate and evaporated yield (BOC)CPI hydrochloride, 1,1-dimethylethyl ester of 1-(chloromethyl)-1,6-dihydro-5-hydroxy-8-methyl-benzo[1,2-b:4,3-b']dipyrrole-3(2H)-carboxylic acid.

reactant | 1-(chloromethyl)-1,6-dihydro-8-methyl-5-(phenylmethoxy)-benzo[1,2-b:4,3-b']dipyrrole-3(2H)-carboxylic acid | ClCC1C2=C(N(C1)C(=O)O)C=C(C=1NC=C(C12)C)OCC1=CC=CC=C1 | C20H19ClN2O3
reactant | THF | C1CCOC1 | C4H8O
reactant | ammonium formate | 130 mg | C(=O)[O-].[NH4+]
catalyst | Pd/C | 120 mg | [Pd] | Pd
solvent | methanol | 2 ml | CO | CH4O
product | 1-(chloromethyl)-1,6-dihydro-5-hydroxy-8-methyl-benzo[1,2-b:4,3-b']dipyrrole-3(2H)-carboxylic acid | ClCC1C2=C(N(C1)C(=O)O)C=C(C=1NC=C(C12)C)O | C13H13ClN2O3
